US05990142
17D Methyl 1-(4-phenylbutyl)-3-methylindole-5-carboxylate
A solution of methyl 1-(4-phenylbutyl)-3-formylindole-5-carboxylate (600 mg, 1.79 mmol) in dry dichloromethane (15 ml) was added successively zinc iodide (857 mg, 2.69 mmol) and sodium cyanoborohydride (843 mg, 13.41 mmol). The resulting mixture was left under stirring at 85° C. for 1.5 h. After that the mixture was filtered through celite, washing the solid with dichloromethane (200 ml). The solvent was evaporated off under reduced pressure and the resulting crude was purified by chromatography through a silica gel column, eluting with n-hexane:ethyl acetate, 98:2, thereby recovering 459 mg of the title compound (80% yield).

reactant | methyl 1-(4-phenylbutyl)-3-formylindole-5-carboxylate | 1.79 mmol, 600 mg | C1(=CC=CC=C1)CCCCN1C=C(C2=CC(=CC=C12)C(=O)OC)C=O | C21H21NO3
reactant | sodium cyanoborohydride | 13.41 mmol, 843 mg | C(#N)[BH3-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | zinc iodide | 2.69 mmol, 857 mg | [I-].[Zn+2].[I-]
product | Methyl 1-(4-phenylbutyl)-3-methylindole-5-carboxylate | 459 mg, 80% yield | C1(=CC=CC=C1)CCCCN1C=C(C2=CC(=CC=C12)C(=O)OC)C | C21H23NO2
